US06919404B2
3-[4-(6-Hydroxy-hexyloxy)-phenyl]-acrylic acid hexadecyl ester
3-(4-Hydroxy-phenyl)-acrylic acid hexadecyl ester (4.8 g, 12.4 mmol) was dissolved in 100 ml of NMP. To this was added 6-chlorohexanol (2.19 g, 16 mmol), anhydrous potassium carbonate (1.7 g, 12 mmol) and a catalytic amount of potassium iodide. The reaction was stirred at 90° C. for 18 hours. Water was added to the cooled solution, which was subsequently extracted with 3×100 mls of ethyl acetate. The combined organics were washed with water (2×100 mls), water/brine (100 ml, 50:50) and brine solution and then dried over magnesium sulfate. The concentrated product was purified by silica gel chromatography eluting with 25% ethyl acetate in hexane to give 2.6 g white solid.

reactant | 3-(4-Hydroxy-phenyl)-acrylic acid hexadecyl ester | 12.4 mmol, 4.8 g | C(CCCCCCCCCCCCCCC)OC(C=CC1=CC=C(C=C1)O)=O | C25H40O3
reactant | 6-chlorohexanol | 16 mmol, 2.19 g | ClCCCCCCO | C6H13ClO
reactant | potassium carbonate | 12 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
solvent | Water | O | H2O
product | 3-[4-(6-Hydroxy-hexyloxy)-phenyl]-acrylic acid hexadecyl ester | 2.6 g | C(CCCCCCCCCCCCCCC)OC(C=CC1=CC=C(C=C1)OCCCCCCO)=O | C31H52O4
